US06995144B2
1-[1-(tert-Butoxycarbonyl)piperidin-4-yl]-2-(2-bromophenyl)ethanone
After dissolving 525 mg of 2-(2-bromophenyl)-1-(piperidin-4-yl)ethanone hydrochloride in 8 ml of a 1N sodium hydroxide solution, a solution of 431 mg of di-tert-butyl-dicarbonate in tetrahydrofuran (8 ml) was added and the mixture was stirred at room temperature for 3 hours. Water was added to the reaction solution, and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (675 mg, 94% yield).

reactant | 2-(2-bromophenyl)-1-(piperidin-4-yl)ethanone hydrochloride | 525 mg | Cl.BrC1=C(C=CC=C1)CC(=O)C1CCNCC1
reactant | di-tert-butyl-dicarbonate | 431 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1-[1-(tert-Butoxycarbonyl)piperidin-4-yl]-2-(2-bromophenyl)ethanone | 675 mg, 94% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=C(C=CC=C1)Br)=O | C18H24BrNO3
